US05753679
1.0 g (0.00532 mol) of 1-benzyl-4-hydroxypiperidine and 0.72 ml (0.00532 mol) of triethylamine were dissolved in 50 ml of toluene and treated with 0.7 ml (0.00532 mol) of o-toluoyl chloride. The mixture was boiled at reflux for 2 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:1). 1.3 g (80%) of 1-benzyl-piperidin-4-yl 2-methyl-benzoate were obtained as a brownish oil. MS: me/e (% basic peak)=309 (C20H23NO2+, 6), 232 (5.5), 173 (22.6), 119 (17.2), 91 (100), 82 (96).

reactant | 1-benzyl-4-hydroxypiperidine | 0.00532 mol, 1.0 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.00532 mol, 0.72 ml | C(C)N(CC)CC | C6H15N
reactant | o-toluoyl chloride | 0.00532 mol, 0.7 ml | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 2-methyl-benzoate | 1.3 g, 80% | CC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C20H23NO2
